US07087594B2
In 20 mL of ethyl acetate was dissolved 10.0 g of 1-{3-[2-(1-benzothiophen-5-yl)ethoxy]propyl}-3-azetidinol, and 20 mL of isopropanol was added thereto, after which 2.60 mL of concentrated nitric acid (61%) was added dropwise thereto at room temperature. To the reaction mixture was added dropwise 60 mL of ethyl acetate, and the resulting mixture was stirred at the same temperature for 1 hour and then at 5° C. for 1 hour. The crystals precipitated were collected by filtration to obtain 11.3 g of 1-{3-[2-(1-benzothiophen-5-yl)ethoxy]propyl}-3-azetidinol nitrate as colorless crystals.

reactant | 1-{3-[2-(1-benzothiophen-5-yl)ethoxy]propyl}-3-azetidinol | 10.0 g | S1C=CC2=C1C=CC(=C2)CCOCCCN2CC(C2)O | C16H21NO2S
reactant | isopropanol | 20 mL | C(C)(C)O | C3H8O
reactant | nitric acid | 2.60 mL | [N+](=O)(O)[O-] | HNO3
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | 1-{3-[2-(1-benzothiophen-5-yl)ethoxy]propyl}-3-azetidinol nitrate | 11.3 g | [N+](=O)([O-])OC1CN(C1)CCCOCCC=1C=CC2=C(C=CS2)C1 | C16H20N2O4S
